US07060827B2
In like manner to preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-methylamino)carbonylmethyleneoxyphenyl]-2,4-pyrimidinediamine, the reaction of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine with 2-hydroxyethylamine yielded N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[2-(N-2-hydroxyethylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.07 (d, 1H, J=1.2 Hz), 7.86 (d, 1H, J=3.9 Hz), 7.43 (d, 2H, J=1.5 Hz), 7.38 (s, 1H), 7.29 (d, 1H, J=2.4 Hz). 6.98 (dd, 1H, J=2.1 and 9 Hz), 6.78 (d, 1H, J=8.7 Hz), 4.23 (s, 4H), 3.72 (t, 2H, J=5.7 Hz), 3.53 (t, 2H, J=6.0 Hz); LCMS: ret. time: 16.21 min.; purity: 97%; MS (m/e): 466 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C22H17FN4O5
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[2-(N-2-hydroxyethylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)NCCO)C1 | C23H20FN5O5
